US05583130
Step C: 4-Methyl-2'-(2-thienyl)-1,1'-biphenyl
A vigorously stirred solution of 3.4 g (14 mmol) of 1-bromo-2-(2-thienyl)benzene and 3.77 g (15 mmol) of 4-methylphenyltrimethylstannane in 50 mL of dimethylformamide under a nitrogen atmosphere was treated with 427 mg of bis(triphenylphosphine) palladium(II) chloride and the resulting mixture heated at 100° C. for 4.5 hours. The reaction mixture was cooled, poured into 250 mL of water and the resultant mixture extracted with ethyl ether. The combined extracts were washed with water (4×), dried over magnesium sulfate and evaporated under vacuum. The residue was dissolved in hexane/ether (100:5) and chromatographed on silica gel, eluting with hexane/ether (100:5) to give 2.25 g of he product. 1H NMR (200 MHz, CDCl3): 2.33 (s, 3H), 6.48 (dd, 1H), 6.83 (dd, 1H), 7.08 (m, 4H), 7.16 (dd, 1H), 7.35 (m, 3H), 7.46 (dd, 1H).

reactant | 1-bromo-2-(2-thienyl)benzene | 14 mmol, 3.4 g | BrC1=C(C=CC=C1)C=1SC=CC1 | C10H7BrS
reactant | 4-methylphenyltrimethylstannane | 15 mmol, 3.77 g | CC1=CC=C(C=C1)[Sn](C)(C)C
reactant | water | 250 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine) palladium(II) chloride | 427 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-Methyl-2'-(2-thienyl)-1,1'-biphenyl | CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1SC=CC1 | C17H14S
